Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
dutasteride
 
Attending: ___.
 
Chief Complaint:
BPH/LUTS
 
Major Surgical or Invasive Procedure:
Laser PVP
 
History of Present Illness:
The patient is known to have a large
prostate, significant outlet obstruction, and has decided to
proceed with a laser photovaporization, possible bipolar
resection.  He understands the procedure, alternative
therapies, benefits and risks including bleeding, infection,
damage to adjacent organs, incontinence, impotence, need for
reoperation.  He wishes to proceed.

 
Past Medical History:
BPH
 
Social History:
___
Family History:
Father - CAD                            

 
Physical ___:
GEN: Well-appearing, non-toxic, AOx4, in NAD
HEAD: AT/NC
EYES: PERRL, EOM intact
NECK: Supple
CV: RRR, no rales, gallops, or rubs,
CHEST: CTA b/l; no wheezing, rales or rhonchi
ABD: Multiple healing incisions. Soft, nontender, no rebound,
guarding, or rigidity, no masses. Liver, spleen, kidney
nonpalpable
EXTREMITY: no cyanosis or erythema, strength grossly normal
SKIN: no rash, warm and dry
GENITOURINARY:  ___ catheter in place. Phallus is uncircumcised
and without lesions. The meatus is normal. Testes themselves are
without masses. The epididymides are nontender. Rectal reveals
normal tone. Extremities are normal. 
Prostate >60 grams, nonnodular, tender. semi-vesicles
nonpalpable.

 
Pertinent Results:
___ 05:52AM BLOOD Glucose-106* UreaN-10 Creat-0.8 Na-140 
K-4.2 Cl-103 HCO3-26 AnGap-11
___ 05:52AM BLOOD WBC-10.6* RBC-4.56* Hgb-13.7 Hct-41.0 
MCV-90 MCH-30.0 MCHC-33.4 RDW-13.8 RDWSD-44.9 Plt ___XAM at Discharge
WDWN, NAD, AVSS
Abdomen soft, non-distended  
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

Patient was admitted to Urology service after transurethral 
greenlight  photovaporization of prostate. No concerning 
intraoperative events occurred; please see dictated
operative note for details. He patient received ___ 
antibiotic prophylaxis. Patient's postoperative course was 
uncomplicated. He received intravenous antibiotics and
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and his Foley was removed after active voiding 
trial and post void residuals were checked. His urine was clear 
yellow and without clots. He remained a-febrile throughout his 
hospital stay.  At discharge, the patient's pain well controlled 
with oral pain medications, tolerating regular diet, ambulating 
without assistance, and voiding without difficulty. He is given 
pyridium on discharge. He is given explicit instructions to 
follow up in clinic. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lovastatin 40 mg oral QHS 
2. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
3.  Phenazopyridine 200 mg PO TID:PRN catheter discomfort 
Duration: 3 Days 
RX *phenazopyridine [Pyridium] 100 mg ONE tablet(s) by mouth 
Q8hrs Disp #*9 Tablet Refills:*0 
4.  Senna 17.2 mg PO HS  
5.  Lovastatin 40 mg oral QHS  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPH and bladder outlet obstructive symptoms with lower urinary 
tract symptoms.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

 
Followup Instructions:
___